US07772285B2
53 g of methyl 2,4-dimethoxybenzoate was dissolved in 160 mL of ethanol, to which 104 mL of a 5M aqueous solution of sodium hydroxide was added, and this mixture was stirred for 2 hours at 25 to 40° C. Then, chloroform and water were added to the reaction mixture, which was adjusted to pH 2 with 6M hydrochloric acid, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure to yield 45 g of 2,4-dimethoxybenzoic acid as white solid.

reactant | methyl 2,4-dimethoxybenzoate | 53 g | COC1=C(C(=O)OC)C=CC(=C1)OC | C10H12O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | ethanol | 160 mL | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | 2,4-dimethoxybenzoic acid | 45 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
